US05354768
7-(4-Methylphenyl)-6-methyl-1H-imidazo[1,2-b]pyrazole (Compound No. 109)
A mixture of 1.7 g of 2-(4-methylphenyl)-3-oxobutyronitrile, 20 ml of ethanol and 1.5 g of 2,2-diethoxyethylhydrazine was heated under reflux for 7 hours. At the end of this time, 30 ml of 4N hydrogen chloride in dioxane were added, and then the whole mixture was heated under reflux for a further 30 minutes. After the mixture had been cooled, diethyl ether was added to precipitate crystals. These were collected by filtration and partitioned between ethyl acetate and dilute aqueous ammonia. The organic phase was separated, washed with water and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, to leave a residue, which was recrystallized from a mixture of ethyl acetate and hexane, to give 1.5 g of the title compound. The physical and chemical properties of this compound were the same as those of the compound prepared as described in Example 36.

reactant | 2-(4-methylphenyl)-3-oxobutyronitrile | 1.7 g | CC1=CC=C(C=C1)C(C#N)C(C)=O | C11H11NO
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | 2,2-diethoxyethylhydrazine | 1.5 g | C(C)OC(CNN)OCC | C6H16N2O2
reactant | hydrogen chloride | 4N, 30 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-(4-Methylphenyl)-6-methyl-1H-imidazo[1,2-b]pyrazole | 1.5 g | CC1=CC=C(C=C1)C1=C2N(N=C1C)C=CN2 | C13H13N3
